US09062070B2
6-Fluoro-2-methyl-3-[(3R,9aR)-8-{[2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-yl]carbonyl}octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile (isomer mixture)
1-Hydroxybenzotriazole (173 mg, 1.280 mmol) was added to a suspension of 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid [I-67] (200 mg, 0.861 mmol) in dichloromethane (2 mL) followed by EDC (331 mg, 1.73 mmol), 6-fluoro-2-methyl-3-[(3R,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile [I-40D] (551 mg, 1.095 mmol) and triethylamine (0.70 mL, 5.0 mmol). The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with EtOAc and washed with saturated NaHCO3 solution, water and brine, dried (MgSO4), filtered, and the solvent evaporated to afford the title compound as a mixture of two diastereomers. The crude product was purified by MPLC on silica (24 g cartridge) using CH2Cl2 (A) and CH2Cl2:MeOH 90:10 (B) with gradient elution from 100% A to 100% B over 12 CV's to afford the title compound as a mixture of 2 diastereomers. LC/MS 490 (M+H). The mixture of diastereomers was purified by preparative chiral HPLC (SFC) on a Chiralcel AS column, 100 bar, 40% MeOH (0.2% DEA)/CO2, 35° C. to afford the two separated aza-indane diastereomers of the title compound: Isomer 2C (faster eluting) and Isomer 2D (slower eluting). Each isomer was dissolved separately in 1 mL of dichloromethane and 1 eq. 1 M HCl in ether was added. The solvent was evaporated to yield the hydrochloride salts of each isomer. Isomer 2C HCl salt: NMR 600 MHz (CD3OD) (mixture amide rotamers) 9.988 (s, 0.6H); 9.975 (s, 0.4H); 8.73 (s, 0.6H); 8.67 (s, 0.4H); 7.94 (dd, 1H); 7.31 (app t, 1H); 5.15 (d, 1H); 4.80 (t, 0.5H); 4.75 (d, 0.5H); 4.65-4.70 (m, 1H); 4.47 (d, 0.5H); 4.32-4.38 (m, 1H); 4.19-4.29 (m, 2H); 3.84-3.98 (m, 2H 3.57-3.72 (m, 2H); 3.44-3.54 (m, 2H); 3.31-3.38 (m, 0.5H); 3.23 (t, 2H); 2.69-2.86 (m, 1H); 2.62 (s, 3H); 2.33-2.42 (m, 0.5H); 2.20-2.28 (m, 0.5H). LC/MS 531 (M+H+CH3CN). Isomer 2D HCl salt: NMR 500 MHz (CD3OD) (mixture amide rotamers) 9.98 (s, 1H); 8.72 (s, 0.6H)); 8.69 (s, 0.4H); 7.91-7.96 (m, 1H); 7.30 (q, 1H); 5.14-5.18 (m, 1H); 472-4.78 (m, 1.5H); 4.65 (d, 0.5H); 4.49 (d, 0.5H); 4.35 (d, 1H); 4.21-4.30 (m, 2H); 3.32-3.95 (m, 6.5H); 3.18-3.27 (m, 2H); 2.71-2.79 (m, 1H); 2.62 (s, 3H); 2.35-2.42 (m, 0.5H); 2.18-2.26 (m, 0.5H). LC/MS 531 (M+H+CH3CN).

reactant | 1-Hydroxybenzotriazole | 1.280 mmol, 173 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid | 0.861 mmol, 200 mg | N1(N=NN=C1)C=1N=CC2=C(N1)CCC2C(=O)O | C9H8N6O2
reactant | EDC | 1.73 mmol, 331 mg
reactant | 6-fluoro-2-methyl-3-[(3R,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile | 1.095 mmol, 551 mg | FC1=CC=C(C(=C1C#N)C)[C@@H]1CN2[C@@H](CO1)CNCC2 | C15H18FN3O
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Fluoro-2-methyl-3-[(3R,9aR)-8-{[2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-5-yl]carbonyl}octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile | FC1=CC=C(C(=C1C#N)C)[C@@H]1CN2[C@@H](CO1)CN(CC2)C(=O)C2CCC=1N=C(N=CC12)N1N=NN=C1 | C24H24FN9O2
